US06407096B1
Methyl (4-(4,4-diphenylpentyl)-8-hydroxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate
4-(4,4-diphenylpentyl)-8-hydroxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazine was dissolved in anhydrous DMF (15 ml), and anhydrous potassium carbonate (180 mg) and methyl bromoacetate (0.15 ml) were added to the resultant solution, and the mixture was stirred at room temperature overnight. The reaction solution was poured into a saturated ammonium chloride aqueous solution, and then extracted with ethyl acetate containing 15% n-hexane. The resultant organic layer was washed with water and saturated brine, dried over sodium sulfate, and concentrated. The resultant residue was purified by medium-pressure column chromatography (solvent:ethyl acetate/cyclohexane=1/3) to obtain the colorless oily object compound (386 mg, yield 92%).

reactant | 4-(4,4-diphenylpentyl)-8-hydroxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | C1(=CC=CC=C1)C(CCCN1C(COC2=C1C=CC=C2O)=O)(C)C2=CC=CC=C2 | C25H25NO3
reactant | potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.15 ml | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Methyl (4-(4,4-diphenylpentyl)-8-hydroxy-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 386 mg, yield 92% | C1(=CC=CC=C1)C(CCCN1C(COC2=C1C=CCC2(OCC(=O)OC)O)=O)(C)C2=CC=CC=C2 | C28H31NO6
